US08748624B2
STEP B: ethyl 3-(5-(5-chloro-2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate
Solid HATU (101 mg, 0.27 mmol) was added to a DMF solution (2 mL) of 2-(6-((2-carboxyethyl)carbamoyl)pyridin-3-yl)-4-chlorobenzoic acid (100 mg, 0.27 mmol), i-Pr2NEt (0.2 mL, 1.1 mmol), and 4′-chloro-[1,1′-biphenyl]-4-amine (57 mg, 0.28 mmol) and the resulting mixture was warmed to 45° C. After 16 h the resulting mixture was diluted with EtOAc, washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | HATU | 0.27 mmol, 101 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(6-((2-carboxyethyl)carbamoyl)pyridin-3-yl)-4-chlorobenzoic acid | 0.27 mmol, 100 mg | C(=O)(O)CCNC(=O)C1=CC=C(C=N1)C1=C(C(=O)O)C=CC(=C1)Cl | C16H13ClN2O5
reactant | i-Pr2NEt | 1.1 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4′-chloro-[1,1′-biphenyl]-4-amine | 0.28 mmol, 57 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ethyl 3-(5-(5-chloro-2-((4′-chloro-[1,1′-biphenyl]-4-yl)carbamoyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C(NC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C30H25Cl2N3O4
